US03937722
18 g benzoin-phenyl ether are reacted in 200 ml DMSO with 25 g of a 10% by weight aqueous sodium hydroxide solution and 11.8 g methyl iodide at 20°C. After working up and filtering through silica gel/benzene, there are obtained, besides 6.2 g of educt, 11.8 g α-methyl-benzoin phenyl ether of m.p. 91.5°C (ethanol).

reactant | benzoin phenyl ether | 18 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1.C1(=CC=CC=C1)OC1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl iodide | 11.8 g | CI | CH3I
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | α-methyl-benzoin phenyl ether | 11.8 g | C1(=CC=CC=C1)OC(C(C1=CC=CC=C1)=O)(C1=CC=CC=C1)C | C21H18O2
